US05563141
Ethyl 1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-carboxylate
A solution of ethyl-1-(bromoacetyl)-piperidin-4-carboxylate (0.84 g, 3 mMoles) in acetonitrile (10 ml) was added dropwise to a stirred solution of 1-(4-pyridyl)piperazine (0.5 g, 3 mMoles) in acetonitrile (20 ml) and the resulting mixture was allowed to stand for 3 hours. The white precipitate was removed by filtration and the mother liquors were concentrated under reduced pressure to give a yellow foam. The foam was purified by chromatography (flash column made with grade III neutral alumina and eluted with a gradient of 0-1% ethanol in dichloromethane) to give the title compound (350 mg) as a colourless oil which was crystallised from cyclohexane to give colourless prisms; mp 102°-104° C.; Microanalysis, found: C,63.5; H,8.1; N, 15.5%; C19H28N4O3 requires C,63.3; H,7.8; N,15.5%; NMR (d6DMSO+CD3COOD): 1.2 (t,3H), 1.3-1.7 (m,2H), 1.8 (m,2H), 2.5-2.8 (m,6H), 3.0-3.4 (m,3H), 3.6 (br s,4H), 3.9 (d,1H), 4.0 (q,2H), 4.2 (d,1H), 7.1 (d,2H), 8.2 (d,2H); m/e 361 (M+H)+.

reactant | ethyl-1-(bromoacetyl)-piperidin-4-carboxylate | 3 mMoles, 0.84 g | C(C)OC(=O)C1CCN(CC1)C(CBr)=O | C10H16BrNO3
reactant | 1-(4-pyridyl)piperazine | 3 mMoles, 0.5 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Ethyl 1-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]piperidin-4-carboxylate | 350 mg | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)N1CCC(CC1)C(=O)OCC | C19H28N4O3
